US08357693B2
To a solution of tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (100 mg, 0.22 mmol) in anhydrous CH2Cl2 (2 mL) added Et3N (45 mg, 0.44 mmol) and 4-nitrophenyl carbonochloridate (47 mg 0.23 mmol). The solution was stirred at RT for 2 h. To the reaction mixture added N,N-dimethylethane-1,2-diamine (36 μL, 0.33 mmol) and stirred for 16 h. Concentrated in vacuo to afford the crude tert-butyl 5-(2-(3-(3-(2-(dimethylamino)ethyl)ureido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate.

reactant | tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.22 mmol, 100 mg | NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C26H24N6O2
reactant | Et3N | 0.44 mmol, 45 mg | CCN(CC)CC | C6H15N
reactant | 4-nitrophenyl carbonochloridate | 0.23 mmol, 47 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | N,N-dimethylethane-1,2-diamine | 0.33 mmol, 36 μL | CN(CCN)C | C4H12N2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-(2-(3-(3-(2-(dimethylamino)ethyl)ureido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | CN(CCNC(NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O)C | C31H34N8O3
